US04695131
Step 3a1: 2-Fluoro-4-(trans-4-n-propylcyclohexyl)biphenyl
A solution of 4-bromo-2-fluorobiphenyl (38.1 gram) in tetrahydrofuran (60 ml) was added over 20 minutes to magnesium turnings (4 gram) suspended in tetrahydrofuran (20 ml), reaction being initiated by adding a crystal of iodine and warming as usual. This Grignard reagent was now added to a solution of trans-4-propylcyclohexylacetyl chloride (40 gram) and cuprous chloride (0.4 gram) in tetrahydrofuran (200 ml) with stirring at -60° C. over 90 minutes. After allowing to warm to room temperature over two hours, the mixture was decomposed with water and the product extracted with petroleum ether (bpt. 60°-80°). The crude material was recrystallized twice from ethanol at 5° C. to give the product (20.6 gram, 40% theory), m.p. 96.5°-97.3° C., which was found to be 99.6 pure by glc.

reactant | 4-bromo-2-fluorobiphenyl | 38.1 gram | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | magnesium | 4 gram | [Mg] | Mg
reactant | iodine | II | I2
reactant | trans-4-propylcyclohexylacetyl chloride | 40 gram | C(CC)[C@@H]1CC[C@H](CC1)CC(=O)Cl | C11H19ClO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Fluoro-4-(trans-4-n-propylcyclohexyl)biphenyl | FC1=C(C=CC(=C1)[C@@H]1CC[C@H](CC1)CCC)C1=CC=CC=C1 | C21H25F
